US05164396
Preparation of 1-phenyl-3-cyclopropylmethyl-5-acetyl-barbituric acid (5)
A quantity of 4.75 g of 1-cyclopropylmethyl-3-phenyl urea and 2.60 g of malonic acid are heated in 30 ml of acetic acid anhydride at 75° C. for 4 hours. After cooling slowly, the acetic acid anhydride is evaporated in vacuo. The residue is boiled in ethanol, cooled and filtered. The resulting crystalline product is the title compound (5) and melts at 91°-95° C.; yield 5.21 g.

reactant | 1-cyclopropylmethyl-3-phenyl urea | 4.75 g | C1(CC1)CNC(=O)NC1=CC=CC=C1 | C11H14N2O
reactant | malonic acid | 2.60 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | acetic acid anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-phenyl-3-cyclopropylmethyl-5-acetyl-barbituric acid | C1(=CC=CC=C1)N1C(=O)N(C(=O)C(C1=O)C(C)=O)CC1CC1 | C16H16N2O4
